US06136810
Sodium borohydride (35 mg, 0.9 mmol) was added to a mixture of 1.16 g (3.7 mmol) of 4-(3-chlorophenyl)-1-ethylpyrido[2,3-d]pyrimidin-2(1H)-one-7-carbaldehyde and 20 ml of ethanol under ice-cooling, followed by stirring for 30 minutes under ice-cooling. The reaction solution was mixed with acetone and concentrated under a reduced pressure, and the resulting residue was mixed with water and extracted with chloroform. The chloroform layer was dried over anhydrous magnesium sulfate, magnesium sulfate was removed by filtration and the resulting filtrate was concentrated under a reduced pressure. Thereafter, the resulting residue was purified by silica gel column chromatography (hexane-ethyl acetate-chloroform) and further recrystallized from acetonitrile-ethanol to give 271 mg of 4-(3-chlorophenyl)-1-ethyl-7-hydroxymethylpyrido[2,3-d]pyrimidin-2(1H)-one. The yield was 23%.

reactant | Sodium borohydride | 0.9 mmol, 35 mg | [BH4-].[Na+]
reactant | 4-(3-chlorophenyl)-1-ethylpyrido[2,3-d]pyrimidin-2(1H)-one-7-carbaldehyde | 3.7 mmol, 1.16 g | ClC=1C=C(C=CC1)C=1C2=C(N(C(N1)=O)CC)N=C(C=C2)C=O | C16H12ClN3O2
reactant | ethanol | 20 ml | C(C)O | C2H6O
solvent | acetone | CC(=O)C | C3H6O
product | 4-(3-chlorophenyl)-1-ethyl-7-hydroxymethylpyrido[2,3-d]pyrimidin-2(1H)-one | 271 mg, yield was 23% | ClC=1C=C(C=CC1)C=1C2=C(N(C(N1)=O)CC)N=C(C=C2)CO | C16H14ClN3O2
